US07186724B2
4-[1-(2,2,2-Trifluoro-ethyl)-1H-thieno[3,2-c]pyrazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester.
4-{(3-Bromo-thiophen-2-yl)-[(2,2,2-trifluoro-ethyl)-hydrazono]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (2.34 g, 4.98 mmol) was mixed with Cul (50 mg), CsCO3 (1.9 g, 1.2 eq) in methoxyethanol (25 mL). The mixture was heated to 75° C. for 1 hour. The mixture was then diluted with EtOAc and filtered. The filtrate was evaporated and the residue was purified via chromatography (eluted with 0–10% MeOH in DCM) yielding 2.03 g (>95%) of the desired product.

reactant | 4-{(3-Bromo-thiophen-2-yl)-[(2,2,2-trifluoro-ethyl)-hydrazono]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 4.98 mmol, 2.34 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=NNCC(F)(F)F)C=1SC=CC1Br | C17H23BrF3N3O2S
solvent | methoxyethanol | 25 mL | COC(C)O | C3H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[1-(2,2,2-Trifluoro-ethyl)-1H-thieno[3,2-c]pyrazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | 2.03 g, >95% | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C2=C(N(N1)CC(F)(F)F)C=CS2 | C17H22F3N3O2S
